US04394329
2,2-Dimethyl-5,5-Dicarbethoxy-1,3-Dioxane
To diethyl-bis-(hydroxymethyl)malonate (50 g) in acetone (50 ml) and benzene (200 ml) is added phosphoric acid (10 g). . The mixture is refluxed while stirring and separating water which distills. When water evolution is complete, the reaction mixture is cooled and the organic layer is separated, stirred with solid sodium carbonate (10 g), filtered and evaporated to give the title product (52 g) (87%) nD26 1.4412.

reactant | diethyl-bis-(hydroxymethyl)malonate | 50 g | C(C)OC(C(C(=O)OCC)(CO)CO)=O | C9H16O6
reactant | phosphoric acid | 10 g | P(O)(O)(O)=O | H3O4P
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2,2-Dimethyl-5,5-Dicarbethoxy-1,3-Dioxane | 52 g, 87% | CC1(OCC(CO1)(C(=O)OCC)C(=O)OCC)C | C12H20O6
